US04238487
A solution of N-cyano-N'-[2-(6-dimethylaminomethyl-2-benzofuranylmethylthio)ethyl]-S-methylisothiourea (8.8 g., 0.024 mole) and methylamine (31 g.) in ethanol (90 ml.) is allowed to stand at room temperature for 3 hours. The solvent is evaporated at reduced pressure. The residual oil gradually crystallizes, m.p. 62°-65° C. Two crystallizations of this product from acetonitrile-ether gives 7.0 g, (84%) of N-cyano-N'-[2-(6-dimethylaminomethyl-2-benzofuranylmethylthio)ethyl]-N"-methylguanidine as white needles, m.p. 115.5°-117.5° C.

reactant | N-cyano-N'-[2-(6-dimethylaminomethyl-2-benzofuranylmethylthio)ethyl]-S-methylisothiourea | 0.024 mole, 8.8 g | C(#N)NC(SC)=NCCSCC=1OC2=C(C1)C=CC(=C2)CN(C)C | C17H22N4OS2
reactant | methylamine | 31 g | CN | CH5N
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | N-cyano-N'-[2-(6-dimethylaminomethyl-2-benzofuranylmethylthio)ethyl]-N"-methylguanidine | 84% | C(#N)NC(=NC)NCCSCC=1OC2=C(C1)C=CC(=C2)CN(C)C | C17H23N5OS
